US07064102B2
(Propionyloxy) acetic acid:
a solution consisting of propionyl chloride (64.7 g, 0.7 mol) and hydroxyacetic acid (19.0 g, 0.25 mol) is heated at 40° C., until the hydroxyacetic acid has completely dissolved. The excess propionyl chloride is then distilled off and 35.6 g of crude product containing 82% of (propionyloxy)acetic acid is obtained as a colorless liquid. The crude product can be used in the subsequent reaction without further purification.

reactant | propionyl chloride | 0.7 mol, 64.7 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydroxyacetic acid | 0.25 mol, 19.0 g | OCC(=O)O | C2H4O3
product | (Propionyloxy) acetic acid | C(CC)(=O)OCC(=O)O | C5H8O4
